Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
___ Abdominal Pain
 
Major Surgical or Invasive Procedure:
___ tube.

 
History of Present Illness:
Mr. ___ is a ___ y.o.m. with h/o Crohn's disease s/p 
small bowel resections and recent development of fistulizing 
disease who presented to the ED on ___ with abdominal 
pain.  One day PTA, he developed abdominal pain in the 
periumbilical area that then progressively worsened over the 
next ___ hours.  He had a small BM on the day of admission but 
felt as though he was not fully evacuating, no melena or 
hematochezia.  Prior to coming to the ED he had several bouts of 
emesis that were initially yellow but turned a very dark brown, 
liquid.  In the ED a CT abd/pelvis was performed and showed a 
thickened segment of small bowel with dilated loops proximal and 
decompressed distal,
concerning for transition point and SBO.  He was admitted to the 
surgical service and was made NPO, IVFs, NGT decompression.  
 
Past Medical History:
Crohn's (Dx in ___ Remicaid in ___, underwent SB 
resection x 2 and stricturoplasty x 2 in ___ (Dr. ___, 
then maintained on ___ and pentasa.  Represented ___ with
fistulizing disease.
B12 deficiency

 
Social History:
___
Family History:
Father with IBS, ___ with lung cancer, MGM with breast cancer
 
Physical Exam:
Vitals: 97.5 97.5 66 ___ 99%RA
Gen:NAD
HEENT: anicteric, MMM, OP clear
Cardiac: RRR, nl S1 and S2, no MRGs
Lungs: CTAB
Abd: flat, midline lower abdominal scar, +bowel sounds, NT/ND
Ext: no edema

 
Pertinent Results:
___ Admission
WBC-12.3* RBC-5.56 Hgb-14.0 Hct-42.4 MCV-76* MCH-25.2* MCHC-33.0 
RDW-14.5 Plt ___
Neuts-85.2* Lymphs-8.2* Monos-5.5 Eos-0.7 Baso-0.3
___ PTT-32.5 ___
Glucose-85 UreaN-6 Creat-0.8 Na-140 K-4.3 Cl-102 HCO3-26 
AnGap-16
ALT-14 AST-20 AlkPhos-52 TotBili-0.5

___ 
WBC-4.7 RBC-4.54* Hgb-11.2* Hct-34.6* MCV-76* MCH-24.7* 
MCHC-32.5 RDW-14.3 Plt ___
Glucose-73 UreaN-8 Creat-0.7 Na-142 K-3.6 Cl-104 HCO3-28 
AnGap-14
calTIBC-133* Ferritn-261 TRF-102*
Iron-68
Triglyc-52

___ Discharge
Glucose-107* UreaN-8 Creat-0.7 Na-140 K-3.9 Cl-107 HCO3-28 
AnGap-___ with ___ yr hx of crohn's was admitted on ___ with 
abdominal pain and partial small bowel obstruction.  Pt was made 
NPO, IV fluids were started and NGT was placed to suction. 
Ciprofloxacin and Flagyl, which the patient was taking prior to 
admission were continued.  GI was consulted to evaluate the 
patient and continued to follow during the course of hospital 
stay.  Patient's NGT output had relatively high output, however 
abdominal pain improved during hospital course. On HD3 a PICC 
line was inserted at TPN was given for nutrition.  On HD4 
patient had BMx2 and NGT clamping trials was started.  Patient 
had less than 10cc residuals after two hours of clamping.  
Repeat clamping trial had no residuals.  At that time NGT was 
discontinued. On HD5 patient was started on clear liquid diet 
and patient tolerated diet.  Patient's TPN was discontinued on 
HD6.  Patient was placed on regular diet and patient tolerated 
well. Patient is being d/c'ed on HD6 afebrile, tolerating diet, 
voiding, having bowel movement.
 
Medications on Admission:
cipro, flagyl, pentasa 4

 
Discharge Medications:
1. Flagyl 500 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours for 4 days.
Disp:*2 Tablet(s)* Refills:*0*
2. Ciprofloxacin 100 mg Tablet Sig: Four (4) Tablet PO every 
twelve (12) hours for 4 days.
Disp:*56 Tablet(s)* Refills:*0*
3. Pentasa 500 mg Capsule, Sustained Release Sig: Four (4) 
Capsule, Sustained Release PO every twelve (12) hours.
Disp:*240 Capsule, Sustained Release(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Stable vital signs. Tolerating regular diet. Full, independent 
bowel and urinary function. Ambulating. Abdominal pain and 
symptoms resolved.

 
Discharge Instructions:
You were admitted to the hospital for a small bowel obstruction. 
You were treated with conservative management until your 
symptoms resolved.

You were admitted with abdominal pain that hs since resolved.  
Somtimes other symptoms can develop later.  Therefore it is very 
important to carefully monitor your condition at home and return 
to the Emergency Department immediately if you have any of the 
warning signs listed below.
* Rest: You should restrict your activities until you are 
completely better.
* When your pain is gone, start a light diet.  Good choices 
include: bananas, rice, applesauce, toast, and crackers.   Avoid 
milk products (such as cheese) as well as spicy, fatty or fried 
foods.
* Do not consume alcohol or caffeine until you are completely 
better.
* Continue your prescribed medications unless instructed to do 
otherwise.  

Call your doctor or return to the Emergency Department right 
away if any of the following problems develop:  

* If you are vomitting and cannot keep in fluids or your 
medications.

* You are getting dehydrated due to continued vomitting, 
diarrhea or other reasons.  Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.

* You see blood or dark/black material when you vomit or have a 
bowel movement.

* Your skin, or the whites of your eyes become yellow.

* Your pain is not improving within ___ hours or not gone 
within 24 hours.  Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 
back.

* You have shaking chills, or a fever greater than 100.4 (F) 
degrees or 38(C) degrees.

* Any serious change in your symptoms, or any new symptoms that 
concern you.

 
Followup Instructions:
___